US05888531
(S,S)-4-[2-(4-Guanidinobenzoyl)amino-3-(4-methoxyphenyl)propionyl]-3-[3-(4-guanidinobenzoyl)aminopropyl]-2-oxopiperazine-1-acetic acid hydrochloride
In 5 ml of methanol was dissolved 250 mg of (S,S)-3-(3-aminopropyl)-4-[2-benzyloxycarbonylamino-3-(4-methoxyphenyl)propionyl]-2-oxopiperazine-1-acetic acid produced in Reference Example 32. To the solution was added 100 mg of 10% Pd--C, and the mixture was stirred for one hour at room temperature in hydrogen atmosphere. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure to leave an oily substance. The oily substance was dissolved in a mixture of 10 ml of dioxane and 10 ml of water. To the solution were added 210 mg of sodium hydrogencarbonate and 450 mg of 4-guanidinobenzoic acid 3,5-dioxo-4-azatricyclo[5,2,1,0 2,6]deca-8-en-4-ylester. The mixture was stirred for one hour at room temperature. The pH of the reaction mixture was adjusted to 3 with 1N HCl , then dioxane was distilled off under reduced pressure. The remaining aqueous solution was subjected to a CHP-20 column. The fraction eluted with 10% acetonitrile/water was freeze-dried to afford 130 mg of the title compound as an amorphous powdery product.

reactant | (S,S)-3-(3-aminopropyl)-4-[2-benzyloxycarbonylamino-3-(4-methoxyphenyl)propionyl]-2-oxopiperazine-1-acetic acid | 250 mg | NCCC[C@H]1C(N(CCN1C([C@H](CC1=CC=C(C=C1)OC)NC(=O)OCC1=CC=CC=C1)=O)CC(=O)O)=O | C27H34N4O7
reactant | sodium hydrogencarbonate | 210 mg | C(O)([O-])=O.[Na+]
reactant | 4-guanidinobenzoic acid 3,5-dioxo-4-azatricyclo[5,2,1,0 2,6]deca-8-en-4-ylester | 450 mg | O=C1C2C3C=CC(C2C(N1OC(C1=CC=C(C=C1)NC(=N)N)=O)=O)C3 | C17H16N4O4
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 10 ml | O | H2O
product | (S,S)-4-[2-(4-Guanidinobenzoyl)amino-3-(4-methoxyphenyl)propionyl]-3-[3-(4-guanidinobenzoyl)aminopropyl]-2-oxopiperazine-1-acetic acid hydrochloride | 130 mg | Cl.N(C(=N)N)C1=CC=C(C(=O)N[C@H](C(=O)N2[C@H](C(N(CC2)CC(=O)O)=O)CCCNC(C2=CC=C(C=C2)NC(=N)N)=O)CC2=CC=C(C=C2)OC)C=C1 | InChI=1S/C35H42N10O7.ClH/c1-52-26-14-4-21(5-15-26)19-27(43-31(49)23-8-12-25(13-9-23)42-35(38)39)32(50)45-18-17-44(20-29(46)47)33(51)28(45)3-2-16-40-30(48)22-6-10-24(11-7-22)41-34(36)37;/h4-15,27-28H,2-3,16-20H2,1H3,(H,40,48)(H,43,49)(H,46,47)(H4,36,37,41)(H4,38,39,42);1H/t27-,28-;/m0./s1
